US05550134
(4aR)-(10bR)-4,10b-dimethyl-8-(2-benzothiazolylthio)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 170 mg portion of (4aR)-(10bR)-10b-methyl-8-(2-benzothiazolylthio)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]-quinolin-3-one was alkylated with methyl iodide substantially according to the process of Example 95 to obtain 84 mg of the desired product. mp 188°-189° FDMS: m/e=394.

reactant | (4aR)-(10bR)-10b-methyl-8-(2-benzothiazolylthio)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]-quinolin-3-one | C[C@@]12CCC(N[C@@H]2CCC2=C1C=CC(=C2)SC=2SC1=C(N2)C=CC=C1)=O | C21H20N2OS2
reactant | methyl iodide | CI | CH3I
product | (4aR)-(10bR)-4,10b-dimethyl-8-(2-benzothiazolylthio)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 84 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)SC=3SC1=C(N3)C=CC=C1)C)=O | C22H22N2OS2
